US05175280
A 200 ml round-bottomed flask was charged with 1 g (25 mmol) of lithium aluminum hydride, and under an argon atmosphere, 50 ml of anhydrous tetrahydrofuran was added. While the resultant mixture was stirred, 50 ml of an anhydrous tetrahydrofuran solution of 2.8 g (19 mmol) of 2-methylterephthalaldehyde was added through a dropping funnel over 20 minutes. The resultant mixture was heat-refluxed for 2 hours, and while the reaction mixture was hot, 1 ml of water, 1 ml of a 50% sodium hydroxide aqueous solution and 3 ml of water were consecutively added in this order. A white precipitate formed was separated by filtering, and the tetrahydrofuran solution was dried over magnesium sulfate, followed by distilling the solvent off with a rotary evaporator and drying under reduced pressure, whereby 2.7 g (18 mmol) of 2,5-bis(hydroxymethyl)toluene was obtained (yield 95%).

reactant | lithium aluminum hydride | 25 mmol, 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 2-methylterephthalaldehyde | 19 mmol, 2.8 g | CC1=C(C=O)C=CC(=C1)C=O | C9H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 2,5-bis(hydroxymethyl)toluene | 18 mmol, 2.7 g, yield 95% | OCC1=C(C=C(C=C1)CO)C | C9H12O2
